US07795257B2
DIEA (0.742 g, 7.32 mmol) is dissolved in THF (10 mL) and cooled to −78° C., under an atmosphere of N2. n-BuLi (2.5M in hexanes, 2.25 mL, 5.63 mmol) is added to this slowly. The resulting solution is stirred at −78° C. for 15 min. A solution of the title B compound, [4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-acetic acid ethyl ester (1.84 g, 5.63 mmol) in THF/DMPU (10 mL/5 mL) is then added dropwise. The reaction is then stirred at −78° C. for one hour. A solution of cyclopentylmethyl iodide (1.18 g, 5.63 mmol) in THF/DMPU (10 mL/5 mL) is then added dropwise and the reaction is allowed to warm to RT overnight. The reaction is then poured into saturated NH4Cl solution and extracted with EtOAc. The organic layer is dried over MgSO4, filtered and concentrated to afford a brown oil. This is purified by flash chromatography (0→2% EtOAc in MeOH) to afford 3-cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionic acid ethyl ester as a brown oil: 1H NMR (CDCl3) δ 1.12 (m, 2H) 1.24 (m, 3H) 1.50 (m, 2H) 1.60 (m, 3H) 1.76 (m, 2H) 2.08 (m, 2H) 2.27 (s, 3H) 2.47 (s, 4H) 3.04 (s, 4H) 3.65 (m, 1H) 4.13 (m, 2H) 7.48 (m, 2H) 7.69 (m, 2H); LC/MS 409.3 (M+1).

reactant | DIEA | 7.32 mmol, 0.742 g | CCN(C(C)C)C(C)C | C8H19N
reactant | n-BuLi | 5.63 mmol, 2.5M, 2.25 mL | [Li]CCCC
reactant | [4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-acetic acid ethyl ester | 5.63 mmol, 1.84 g | C(C)OC(CC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)=O | C15H22N2O4S
reactant | cyclopentylmethyl iodide | 5.63 mmol, 1.18 g | C1(CCCC1)CI | C6H11I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF DMPU | 10 mL | C1CCOC1.CN1CCCN(C1=O)C
solvent | THF DMPU | 10 mL | C1CCOC1.CN1CCCN(C1=O)C
product | 3-cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)=O | C21H32N2O4S
